US08076491B2
3,5-bis(tert-butyldimethylsilyloxy)benzaldehyde
Prepared as in Example 12-1c from 3,5-dihydroxybenzaldehyde and tert-butylchlorodimethylsilane. Yield 100%, yellowish liquid. MS 267 (MH+).

reactant | 3,5-dihydroxybenzaldehyde | OC=1C=C(C=O)C=C(C1)O | C7H6O3
reactant | tert-butylchlorodimethylsilane | C(C)(C)(C)[Si](C)(C)Cl | C6H15ClSi
product | 3,5-bis(tert-butyldimethylsilyloxy)benzaldehyde | Yield 100% | [Si](C)(C)(C(C)(C)C)OC=1C=C(C=O)C=C(C1)O[Si](C)(C)C(C)(C)C | C19H34O3Si2
